US06489354B1
1-Benzyl-3-(RS)-(4-(4-fluorophenyl)piperidinylcarbonyl)-4-(RS)-(ethoxy carbonyl)pyrrolidine
A solution of 2.87 g (20 mmol) of mono-ethylfumarate (Aldrich), 3.24 g (20 mmol of 4-(4-fluorophenyl)piperidine, 2.93 g (24 mmol) of 4-dimethylaminopyridinie, and 7.67 g (40 mmol) of 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride in 40 mL of CH2Cl2 at rt was stirred for 2.5 h. The reaction mixture was diluted with CH2Cl2, washed with NaHCO3, dried over Na2SO4, filtered. The filtrate was concentrated and the residue was purified by chromatography (silica, acetone: hexanes, 1:3) to give 4.4 g of the title compound 1H NMR (CDCl3) δ 7.44 (d, 1H, J=15.5 Hz), 7.14-7.16 (m, 2H), 7.00 (t, 2H, J=8.5 Hz), 6.77 (d, 1H, J=15.5 Hz), 4.26 (q, 2H, J=7 Hz), 1.33 (t, 3H, J=7 Hz).

reactant | mono-ethylfumarate | 20 mmol, 2.87 g | C(C)OC(\C=C\C(=O)[O-])=O
reactant | 4-(4-fluorophenyl)piperidine | 20 mmol | FC1=CC=C(C=C1)C1CCNCC1 | C11H14FN
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 40 mmol, 7.67 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-3-(RS)-(4-(4-fluorophenyl)piperidinylcarbonyl)-4-(RS)-(ethoxy carbonyl)pyrrolidine | 4.4 g | C(C1=CC=CC=C1)N1CC(C(C1)C(=O)OCC)C(=O)N1CCC(CC1)C1=CC=C(C=C1)F | C26H31FN2O3
